US09428490B2
Synthesis of 4-chloro-3,5-bis(trifluoromethyl)benzamide
4-Chloro-3,5-bis(trifluoromethyl)benzonitrile (1 g, 1.0 eq.) was dissolved in DMSO (10 mL). K2CO3 (0.55 g, 1.1 eq.) and H2O2 (1 mL) were added to the reaction mixture and stirred at room temperature for 2-3 h, then poured into ice water (20 mL). The precipitate formed was collected by filtration and washed with petroleum ether to afford 1.0 g of crude product (90% yield), which was used without further purification in the next step.

reactant | 4-Chloro-3,5-bis(trifluoromethyl)benzonitrile | 1 g, 1.0 eq. | ClC1=C(C=C(C#N)C=C1C(F)(F)F)C(F)(F)F | C9H2ClF6N
reactant | K2CO3 | 0.55 g, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 1 mL | OO | H2O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-chloro-3,5-bis(trifluoromethyl)benzamide | 1.0 g, 90% yield | ClC1=C(C=C(C(=O)N)C=C1C(F)(F)F)C(F)(F)F | C9H4ClF6NO
